US07781431B2
A solution (0.20 M) of methyl 5-(4-chlorophenyl)-6-cyclohexyl-4H-thieno[3,2-b]pyrrole-2-carboxylate in DMF was treated at 0° C. with NaH (1.5 eq., 60% dispersion in mineral oil), and the suspension was stirred at RT for 45 min then cooled again to 0° C., and treated with chloromethyl methyl ether (5 eq.). The reaction mixture was stirred at RT for 1.5 h then was cooled at 0° C. and quenched with aqueous NaHCO3 (saturated solution) and extracted with AcOEt. The combined organic phase was washed with brine and dried. Evaporation of the solvent under reduced pressure gave a residue that was purified by flash chromatography on silica gel (1:9 acetone/toluene) to afford methyl 5-(4-chlorophenyl)-6-cyclohexyl-4-(methoxymethyl)-4H-thieno[3,2-b]pyrrole-2-carboxylate (100%). This compound was dissolved in THF/MeOH (2:3), and the resulting solution (0.08 M) was treated at RT with aqueous NaOH (2N solution, 5 eq.). The mixture was heated at 85° C. for 1.5 h. After cooling down, the reaction mixture was concentrated and acidified to pH 1 with aqueous HCl (1 N) and extracted with AcOEt. The combined organic phase was washed with brine and dried. Evaporation of the solvent under reduced pressure afforded the title compound (96%) as a solid.

reactant | methyl 5-(4-chlorophenyl)-6-cyclohexyl-4H-thieno[3,2-b]pyrrole-2-carboxylate | 0.20 M | ClC1=CC=C(C=C1)C1=C(C2=C(N1)C=C(S2)C(=O)OC)C2CCCCC2 | C20H20ClNO2S
reactant | NaH | 1.5 eq. | [H-].[Na+]
reactant | chloromethyl methyl ether | 5 eq. | COCCl | C2H5ClO
solvent | DMF | CN(C)C=O | C3H7NO
product | methyl 5-(4-chlorophenyl)-6-cyclohexyl-4-(methoxymethyl)-4H-thieno[3,2-b]pyrrole-2-carboxylate | 100% | ClC1=CC=C(C=C1)C1=C(C2=C(N1COC)C=C(S2)C(=O)OC)C2CCCCC2 | C22H24ClNO3S
